US04236002
7-[[[3-Azido-4-hydroxyphenyl]acetyl]amino]-7-methoxy-3-[[(5-methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
The title compound is prepared when 3-azido-4-hydroxybenzeneacetic acid is reacted with 7-amino-7-methoxy-3-[[(5-methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid according to Procedure V.

reactant | 3-azido-4-hydroxybenzeneacetic acid | N(=[N+]=[N-])C=1C=C(C=CC1O)CC(=O)O | C8H7N3O3
reactant | 7-amino-7-methoxy-3-[[(5-methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1(C2SCC(=C(N2C1=O)C(=O)O)CSC=1SC(=NN1)C)OC | C12H14N4O4S3
product | 7-[[[3-Azido-4-hydroxyphenyl]acetyl]amino]-7-methoxy-3-[[(5-methyl-1,3,4-thiadiazol-2-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N(=[N+]=[N-])C=1C=C(C=CC1O)CC(=O)NC1(C2SCC(=C(N2C1=O)C(=O)O)CSC=1SC(=NN1)C)OC | C20H19N7O6S3
